US08049016B2
Preparation of ethyl 2-(tert-butoxycarbonylamino)-4-methylthiazole-5-carboxylate
To a mixture of ethyl 2-amino-4-methylthiazole-5-carboxylate (5.00 g, 26.80 mmol) and di-tert-butyl dicarbonate (6.44 g, 29.50 mmol) in anhydrous tetrahydrofuran (200.0 mL) was added triethylamine (2.99 g, 29.50 mmol) and N,N-dimethyl-4-aminopyridine (0.30 g, 2.46 mmol) at 0° C. The resulting solution was stirred at ambient temperature for 16 h, acidified to pH ˜2 with 1 N hydrochloric acid solution and extracted with ethyl acetate (3×300 mL). The organic layer was washed with saturated aqueous ammonium chloride solution (250 mL), dried over anhydrous sodium sulphate and filtered. The filtrate was concentrated in vacuo to afford the title compound as an off-white solid (6.10 g, 79%): 1H NMR (300 MHz, DMSO-d6) δ 11.87 (s, 1H), 4.21 (q, J=7.1 Hz, 2H), 2.49 (s, 3H), 1.48 (s, 9H), 1.26 (t, J=7.1 Hz, 2H).

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | 26.80 mmol, 5.00 g | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | di-tert-butyl dicarbonate | 29.50 mmol, 6.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 29.50 mmol, 2.99 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 200.0 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethyl-4-aminopyridine | 2.46 mmol, 0.30 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | ethyl 2-(tert-butoxycarbonylamino)-4-methylthiazole-5-carboxylate | 6.10 g, 79% | C(C)(C)(C)OC(=O)NC=1SC(=C(N1)C)C(=O)OCC | C12H18N2O4S
